US07273878B2
To 7 ml of N,N-dimethylformamide were dissolved 0.68 g (3.0 mmol) of 6,6-difluoro-5-methyl-5-hexenylmethanesulfonate and 0.58 g (3.6 mmol) of 1H-indole-5-carboxylic acid, followed by the addition of 0.75 g (8.9 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:3) to obtain 0.81 g (yield: 93%) of 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-5-carboxylate.

reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenylmethanesulfonate | 3.0 mmol, 0.68 g | FC(=C(CCCCCS(=O)(=O)[O-])C)F
reactant | 1H-indole-5-carboxylic acid | 3.6 mmol, 0.58 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | sodium hydrogencarbonate | 8.9 mmol, 0.75 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-5-carboxylate | 0.81 g, yield: 93% | N1C=CC2=CC(=CC=C12)C(=O)OCCCCC(=C(F)F)C | C16H17F2NO2
